US04415482
Bismuth Molybdate Component
171 grams of molybdenum trioxide (MoO3) were dissolved in a mixture of 433 ml of water and 215 ml of 57% ammonium hydroxide, added to a solution of 251.7 grams of bismuth trioxide (Bi2O3) in 833 ml of water and 367 ml of 70% nitric acid with stirring. The pH of the resulting mixtures were adjusted to between 1 and 6.5 using ammonium hydroxide and heated for approximately 2 hours at 100° C. The bismuth molybdate precipitate was filtered and washed with approximately 500 ml of water.

reactant | molybdenum trioxide | 171 grams | [Mo](=O)(=O)=O
reactant | bismuth trioxide | 251.7 grams | [O-2].[O-2].[O-2].[Bi]
solvent | water | 433 ml | O | H2O
solvent | ammonium hydroxide | 215 ml | [OH-].[NH4+]
solvent | water | 833 ml | O | H2O
solvent | nitric acid | 367 ml | [N+](=O)(O)[O-] | HNO3
product | Bismuth Molybdate | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Mo].[Mo].[Bi+3].[Bi+3] | InChI=1S/2Bi.2Mo.9O/q2*+3;;;9*-2
